Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:6](=[O:7])([H:8])[H:10].[N:1]#[C:2][O:3][C:4](=[O:5])[H:9]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],54.85641702517219
[N:1]([N:3]=[C:2]=[O:7])([H:8])[H:9].[N:4]#[C:5][N:6]([H:10])[H:11]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],39.20833755704541
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])[H:13])([H:11])([H:12])[H:14],115.64995983881201
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:5]1[C:4]([H:10])([H:11])[C:3]([H:8])([H:9])[C:2]([H:7])=[N:6]1,127.239405790775
[C:1]([N:2]([C@@:4]1([O:6][C:7]([H:14])([H:15])[H:16])[C:3]([H:12])([H:13])[O:5]1)[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],45.46582832074999
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([O:5][H:15])([C:6](=[O:7])[H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],51.2753323129211
[N:1]([N:6]=[C:5]=[C:2]([C:3]#[C:4][H:10])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],45.623377553774205
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4](=[C-:5])[N+:7]#[C:6])([H:8])[H:9],92.7806735238681
[N+:1](#[C-:2])[N-:6][N+:7]#[C:3][C:4](=[O:5])[H:8]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],37.1879836605881
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:14])[C@:4]1([C+:5]=[C:6]([O-:7])[H:15])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],30.7744037850496
[C:1]([O+:2]=[C:3]1[C:4]([H:11])([H:12])[C@:7]1([C:6]([C-:5]([H:13])[H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],47.302477230786
[C:1]([O:4][C:3]([C-:2]=[C:5]=[C+:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([C:5]#[C:6][H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],40.67115031406462
[C:1]([H:7])([H:8])([H:9])[H:13].[N:2](=[C:3]=[O:4])[H:10].[O:5]=[C:6]([H:11])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],82.4169700194487
[C:1]([C@:2]1([H:11])[C:4]/[C:5]1=[C:6](/[O:7][C:3]([H:12])([H:13])[H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],34.11490263773692
[C:5](=[C:6]=[N:7][H:9])([H:10])[H:11].[N:1]#[C:2][C:3](=[O:4])[H:8]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],25.64472133759391
[N:1]1=[C:2]([C:3]([O:4][H:10])([H:8])[H:9])[C@@:5]1([C:6]#[N:7])[H:11]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],48.790754138735096
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])[H:10]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],21.3033966184015
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3](=[O:4])[H:12])[H:11])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:13].[H:8][H:14],68.4301794761858
[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[O:5][H:15])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][H:12],96.0989716926498
[C:1]([C@:3]1([H:12])[C:2]([H:10])([H:11])[O:6][C:5]([H:15])([H:16])[C:4]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],94.01333529546412
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]=[C:4]=[C:5]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[N:6]#[C:7][H:15],104.09683182526199
[N:1]1=[C:2]([H:9])[O:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6][N:7]1[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],17.468967758591504
[C:1](=[C:2]([H:9])[H:10])([H:6])[H:8].[C:3]([O:4][H:7])[N:5]([H:11])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],3.6193693289273057
[C:1]([C:2](/[C:3](=[C:4](/[C:5][H:13])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],16.120535814691785
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:5](=[O:6])([H:7])[H:12],65.7518618099883
